US03987160
2-Methanesulphonylbenzamide (34 g.) was added to phosphorus oxychloride (100 ml.) and the mixture was refluxed for 90 minutes. The excess of phosphorus oxychloride was evaporated in vacuo, and the oily residue was treated with water (200 ml.), with ice cooling. The solid which separated was filtered off, washed with water and recrystallised from ethanol to give 2-methanesulphonylbenzonitrile (27 g.), m.p. 105°-106° C.

reactant | 2-Methanesulphonylbenzamide | 34 g | CS(=O)(=O)C1=C(C(=O)N)C=CC=C1 | C8H9NO3S
solvent | phosphorus oxychloride | 100 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-methanesulphonylbenzonitrile | 27 g | CS(=O)(=O)C1=C(C#N)C=CC=C1 | C8H7NO2S
